*======================================================================
* StrongARM Latch Comparator Testbench (simplified controls)
* DUT: Double_Tail_Comparator / realcomp.sch  (GF180MCU 3.3V devices)
*
* TEST 1: Both inputs are static DC voltages. INN is held at a fixed
*         "reference" voltage; INP is swept from a start value to an
*         end value (e.g. INP: 0.4V -> 0.7V while INN stays at 0.5V).
* TEST 2: Both inputs are sine waves sharing one DC offset (VCM).
*         Their amplitude is swept from a start value down to an end
*         value, and the phase difference between them ("difference")
*         is swept from a start value to an end value.
*
* You only need to touch the blocks marked "USER-EDITABLE". All pulse
* shaping / timing details are derived automatically from the two
* frequency knobs you do care about (CLK frequency, sine frequency)
* and are marked "AUTO-DERIVED - no need to edit".
*======================================================================

.title strongarm_latch_testbench

*----------------------------------------------------------------------
* PDK / MODELS  <-- EDIT THIS: point at your gf180mcu (or other) model
* library that defines nfet_03v3 / pfet_03v3
*----------------------------------------------------------------------
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice 
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical 
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/smbb000149.ngspice typical

*----------------------------------------------------------------------
* USER-EDITABLE: SUPPLIES
*----------------------------------------------------------------------
.param VDD_VAL   = 3.3     ; <-- EDIT: supply voltage
.param VSS_VAL   = 0       ; <-- EDIT: ground / negative supply
.param TEMP_VAL  = 27      ; <-- EDIT: simulation temperature, deg C
.temp {TEMP_VAL}

VDD  VDD  0  DC {VDD_VAL}
VSS  VSS  0  DC {VSS_VAL}

*----------------------------------------------------------------------
* DUT SUBCIRCUIT (from realcomp.sch netlist). Not meant to be edited.
*----------------------------------------------------------------------
.subckt realcomp OUTN OUTP CLK VSS VDD INP INN
XM1 net1 INN net3 VSS nfet_03v3 L=0.28u W=2.852u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 net2 INP net3 VSS nfet_03v3 L=0.28u W=2.852u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 net3 CLK VSS VSS nfet_03v3 L=0.28u W=02.5757u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 OUTN OUTP net2 VSS nfet_03v3 L=0.28u W=0.713u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 OUTP OUTN net1 VSS nfet_03v3 L=0.28u W=0.713u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 OUTP CLK VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 OUTN OUTP VDD VDD pfet_03v3 L=0.28u W=1.426u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 OUTN CLK VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM10 OUTP OUTN VDD VDD pfet_03v3 L=0.28u W=1.426u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM11 net2 CLK net1 VSS nfet_03v3 L=0.28u W=2.852u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends realcomp


*======================================================================
* ################### TEST 1: STATIC DC SWEEP ##########################
*======================================================================
* INN is fixed at INN_FIXED. INP sweeps linearly from INP_START to
* INP_END. If you'd rather sweep INN and hold INP fixed instead, just
* swap which of VINP1/VINN1 gets alter'd in the control block below.
*----------------------------------------------------------------------
* USER-EDITABLE: TEST 1
*----------------------------------------------------------------------
.param INN_FIXED  = 0.5      ; <-- EDIT: fixed/reference voltage on INN
.param INP_START  = 0.4      ; <-- EDIT: INP sweep start voltage
.param INP_END    = 0.6      ; <-- EDIT: INP sweep end voltage
.param N_STEPS1   = 20       ; <-- EDIT: number of sweep points
.param CLK_FREQ1  = 50MEG    ; <-- EDIT: comparator clock frequency

*----------------------------------------------------------------------
* AUTO-DERIVED (test 1) - no need to edit
*----------------------------------------------------------------------
.param CLK_PERIOD1 = '1/CLK_FREQ1'
.param CLK_PW1     = '0.4*CLK_PERIOD1'   ; evaluate window
.param CLK_TR1     = '0.01*CLK_PERIOD1'
.param CLK_TF1     = '0.01*CLK_PERIOD1'
.param CLK_TD1     = '1*CLK_PERIOD1'     ; one idle period before evaluating
.param T_STOP1     = '2.2*CLK_PERIOD1'
.param T_MEAS1     = 'CLK_TD1+0.9*CLK_PW1'  ; sample near end of eval window

X1 OUTN1 OUTP1 CLK1 VSS VDD INP1 INN1 realcomp

VCLK1 CLK1 0 PULSE({VSS_VAL} {VDD_VAL} {CLK_TD1} {CLK_TR1} {CLK_TF1} {CLK_PW1} {CLK_PERIOD1})
VINP1 INP1 0 DC {INP_START}
VINN1 INN1 0 DC {INN_FIXED}

*--- SPICE GOES HERE: TEST 1 SWEEP ENGINE -------------------------------
.control
  set filetype=ascii
  echo "===== TEST 1: static DC sweep (INN fixed, INP swept) ====="

  let n1 = 20
let inp_start = 0.4
let inp_end = 0.6
let inn_fixed = 0.5

  let npts1 = n1 + 1

  * --- accumulator vectors, filled one entry per sweep step below ---
  * (this is what makes the end-of-loop "OUTP/OUTN vs INP-INN" plot possible)
  let outp_vec = 0*vector(npts1)
  let outn_vec = 0*vector(npts1)
  let diff_vec = 0*vector(npts1)

  let i1 = 0
  while i1 <= n1
    let inp_val = inp_start + i1*(inp_end-inp_start)/n1
    alter @vinp1[dc] = $&inp_val

    tran 20p {T_STOP1}

    meas tran outp_f find v(outp1) at={T_MEAS1}
    meas tran outn_f find v(outn1) at={T_MEAS1}
    let diff_in = inp_val - inn_fixed
    let decision_correct = ((outp_f - outn_f) * diff_in) > 0

    * stash this step's results into the accumulator vectors
    let outp_vec[i1] = outp_f
    let outn_vec[i1] = outn_f
    let diff_vec[i1] = diff_in

    echo "step=$&i1  INP=$&inp_val  INN=INN_FIXED  OUTP=$&outp_f  OUTN=$&outn_f  correct=$&decision_correct"
    wrdata test1_step$&i1.txt v(inp1) v(inn1) v(clk1) v(outp1) v(outn1)

    let i1 = i1 + 1
  end

  *--- PLOT: OUTP & OUTN (final/settled value) vs (INP - INN) ------------
  * This is the "how does the comparator behave as the gap narrows" plot.
  * Add any further post-sweep plots here.
  plot outp_vec outn_vec vs diff_vec title 'OUTP/OUTN vs (INP-INN)'
.endc


*======================================================================
* ############### TEST 2: SINE DIFFERENTIAL SWEEP ######################
*======================================================================
* INP2 = VCM2 + A*sin(2*pi*SIG_FREQ*t)
* INN2 = VCM2 + A*sin(2*pi*SIG_FREQ*t + phi)
* Amplitude A is swept from A_START down to A_END; phase difference
* phi ("difference" between the two waves) is swept from PHI_START to
* PHI_END. A small fixed start delay is assumed automatically so the
* comparator's first clock edge doesn't land exactly at t=0.
*----------------------------------------------------------------------
* USER-EDITABLE: TEST 2
*----------------------------------------------------------------------
.param VCM2       = 1.65     ; <-- EDIT: DC offset shared by both sine waves
.param SIG_FREQ   = 1MEG     ; <-- EDIT: frequency of INP2/INN2
.param CLK_FREQ2  = 50MEG    ; <-- EDIT: comparator sampling clock frequency
.param A_START    = 0.5      ; <-- EDIT: starting (largest) amplitude
.param A_END      = 0.01     ; <-- EDIT: ending (smallest) amplitude
.param PHI_START  = 30       ; <-- EDIT: starting phase difference, degrees
.param PHI_END    = 1        ; <-- EDIT: ending phase difference, degrees
.param N_STEPS2   = 4        ; <-- EDIT: number of sweep points (applies to
                              ;     both the amplitude sweep and phase sweep)

*----------------------------------------------------------------------
* AUTO-DERIVED (test 2) - no need to edit
*----------------------------------------------------------------------
.param CLK_PERIOD2   = '1/CLK_FREQ2'
.param CLK_PW2       = '0.4*CLK_PERIOD2'
.param CLK_TR2       = '0.01*CLK_PERIOD2'
.param CLK_TF2       = '0.01*CLK_PERIOD2'
.param CLK_TD2       = '1*CLK_PERIOD2'     ; assumed start delay
.param N_SIG_PERIODS = 5                   ; how many signal periods to simulate
.param T_STOP2       = 'N_SIG_PERIODS/SIG_FREQ'

X2 OUTN2 OUTP2 CLK2 VSS VDD INP2 INN2 realcomp

VCLK2 CLK2 0 PULSE({VSS_VAL} {VDD_VAL} {CLK_TD2} {CLK_TR2} {CLK_TF2} {CLK_PW2} {CLK_PERIOD2})
VINP2 INP2 0 DC {VCM2} SIN({VCM2} {A_START} {SIG_FREQ} 0 0 0)
VINN2 INN2 0 DC {VCM2} SIN({VCM2} {A_START} {SIG_FREQ} 0 0 {PHI_START})

*--- SPICE GOES HERE: TEST 2 SWEEP ENGINE -------------------------------
.control
  echo "===== TEST 2: sine differential sweep (amplitude x phase) ====="

let n2 = 4
let a_start = 0.5
let a_end = 0.01
let phi_start = 30
let phi_end = 1

  let ia = 0
  while ia <= n2
    let a_val = a_start + ia*(a_end-a_start)/n2

    let iphi = 0
    while iphi <= n2
      let phi_val = phi_start + iphi*(phi_end-phi_start)/n2

      alter @vinp2[sin] = [ {VCM2} $&a_val {SIG_FREQ} 0 0 0 ]
      alter @vinn2[sin] = [ {VCM2} $&a_val {SIG_FREQ} 0 0 $&phi_val ]

      tran 20p {T_STOP2}

      *--- PLOT: one time-domain plot per sweep step -------------------
      * Shows OUTP/OUTN settling against INP, INN, and CLK for this
      * particular amplitude/phase combo. One plot window is opened
      * per (ia, iphi) step.
      plot v(inp2) v(inn2) v(clk2) v(outp2) v(outn2) title 'Test2 step ia=$&ia iphi=$&iphi'

      echo "A=$&a_val  phi=$&phi_val deg  -> waveform saved"
      wrdata test2_A$&ia\_phi$&iphi.txt v(inp2) v(inn2) v(clk2) v(outp2) v(outn2)

      let iphi = iphi + 1
    end
    let ia = ia + 1
  end
.endc

.end