* Ideal Clocked Comparator with Native Metastability & Logarithmic Delay
* Compatible with ngspice and Xschem
*
* Pin configuration: 
* INP/INN = Analog Inputs, CLK = Clock Input, OUTP/OUTN = Digital Outputs
* VDD/VSS = Supply Rails
*
.subckt IDcomparator INP INN CLK VDD VSS OUTP OUTN
+ PARAMS: VTH=0.6 T0=50p TAU=30p VOS=0 VNOISE=0

* Internal calculation helpers:
* 1. Translates desired T0 delay into a clock RC filter network (using a 1pF cap baseline)
.param R_T0={T0 / (1e-12 * 0.693147)}
* 2. Translates regeneration constant (TAU) into an ideal transconductance scale
.param GM_EFF={1e-12 / TAU}
.param GM_IN={GM_EFF * 0.1}

* --- STEP 1: SENSING DELAY (t0) MODEL ---
* Filters the incoming clock signal to model the tracking/discharge dead-time (t0)
R_clk CLK CLK_del {R_T0}
C_clk CLK_del 0 1pf

* --- STEP 2: INPUT AND SPECIFICATIONS VECTOR ---
* Integrates static offset and random noise parameters directly into the differential input
B_in IN_DIFF 0 V = V(INP) - V(INN) - {VOS} + {VNOISE}

* --- STEP 3: REGENERATIVE LATCH CORE ---
* Node 'INT' holds the state of the internal latch.
* When CLK_del is LOW: Node is shorted to ground through a 10-ohm path (Reset Phase).
* When CLK_del is HIGH: Activates the Gm input stage and cross-coupled positive feedback.
C_latch INT 0 1pf
B_latch 0 INT I = (V(CLK_del) > {VTH}) ? ({GM_IN}*V(IN_DIFF) + {GM_EFF}*V(INT)) : (-V(INT)/10)

* --- STEP 4: RAIL-TO-RAIL DIGITAL DRIVERS ---
* Converts internal state to digital outputs.
* In the double-tail architecture, outputs are forced to 0V (VSS) during reset.
* Tanh functions ensure smooth analog derivative transitions for SPICE stability.
B_outp OUTP 0 V = (V(CLK) > {VTH}) ? (V(VDD)/2 * (1 + tanh(V(INT) * 1e2))) : 0
B_outn OUTN 0 V = (V(CLK) > {VTH}) ? (V(VDD)/2 * (1 - tanh(V(INT) * 1e2))) : 0

.ends